US07829580B2
Following a procedure similar to that described in Example 160-(e), (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol (4.7 g) was treated with thioacetic acid and N,N-dimethylformamide dineopentyl acetal. After extraction, the obtained substance was purified by silica gel chromatography to afford (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-(triphenylmethyl)piperidine (2.6 g). This compound was similarly treated with trifluoroacetic acid in dichloromethane and the residue obtained by concentration of the reaction mixture was purified by preparative HPLC (YMC-Pack ODS-A; YMC, eluent: acetonitrile/0.026 N aqueous trifluoroacetic acid solution, 18/82, v/v) to afford the title compound (550 mg, yield: 14%) as a yellow amorphous solid.

reactant | (E)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 4.7 g | COC(=O)CN1N=NC(=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H30N4O3
reactant | thioacetic acid | C(C)(=S)O | C2H4OS
reactant | N,N-dimethylformamide dineopentyl acetal | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
product | (E)-4-(acetylsulfanyl)-3-{[1-(methoxycarbonylmethyl)-1H-1,2,3-triazol-4-yl]methylidene}-1-(triphenylmethyl)piperidine | 2.6 g | C(C)(=O)SC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C=1N=NN(C1)CC(=O)OC | C32H32N4O3S
